US08193227B2
(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)acetaldehyde
To a solution of phthalimide diethylacetal (15 g) in tetrahydrofuran (THF) (30 mL) was added 10% aqueous HCl (18 mL). After heating at 75° C. for 5 hrs, the solution was allowed to cool to RT, and ethyl acetate (100 mL) was added. The solution was extracted with saturated sodium carbonate solution (100 mL), brine (100 mL), and the organic layer was separated and dried over magnesium sulfate (MgSO4). The solution was filtered and evaporated to provide 11.2 g of the titled compound.

reactant | phthalimide diethylacetal | 15 g | C(C)OC1(C=2C(C(N1)=O)=CC=CC2)OCC | C12H15NO3
reactant | HCl | 18 mL | Cl | ClH
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | (1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)acetaldehyde | 11.2 g | O=C1N(C(C2=CC=CC=C12)=O)CC=O | C10H7NO3
